US04608374
11-[1-(2-Fluorobenzyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine
To a solution of 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine (5.0 g; 0.010 mole in 75 ml DMF) and 10 g milled K2CO3 was added 2-fluorobenzyl chloride (3.18 g; 0.022 mole in 15 ml DMF). This was stirred at 85° C. for 1.5 hours.

reactant | 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 0.010 mole, 75 ml, 5.0 g | N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C17H20N2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-fluorobenzyl chloride | 0.022 mole, 15 ml, 3.18 g | FC1=C(CCl)C=CC=C1 | C7H6ClF
product | 11-[1-(2-Fluorobenzyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | FC1=C(CN2CCC(CC2)C2OC3=C(CN4C2=CC=C4)C=CC=C3)C=CC=C1 | C24H25FN2O
